US07846956B2
9.96 g of ethyl 5-(1-hydroxy-1-methylethyl)isoxazole-5-carboxylate was dissolved in 200 ml of ethanol, and 3.78 g of sodium borohydride was then added. The mixture was stirred at room temperature for 10 hours. After 50 ml of water was added, the reaction mixture was concentrated to 50 ml under reduced pressure. The concentrated solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced-pressure. The residue was subjected to silica gel column chromatography to obtain 6.17 g of [5-(1-hydroxy-1-methylethyl)isoxazol-3-yl]methanol.

reactant | ethyl 5-(1-hydroxy-1-methylethyl)isoxazole-5-carboxylate | 9.96 g | OC(C)(C)C1(C=CNO1)C(=O)OCC | C9H15NO4
reactant | sodium borohydride | 3.78 g | [BH4-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | [5-(1-hydroxy-1-methylethyl)isoxazol-3-yl]methanol | 6.17 g | OC(C)(C)C1=CC(=NO1)CO | C7H11NO3
